US04405617
A mixture of 7-[2-tert-butoxycarbonylmethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-[1-(2-propynyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid hydrochloride (syn isomer) (1.57 g.), anisole (1.57 ml.) and trifluoroacetic acid (8 ml.) was stirred for 3 hours at 10° to 15° C. After the addition of diisopropyl ether to the reaction mixture with stirring, the precipitates were collected by filtration, washed with diisopropyl ether and then dried to give 7-[2-carboxymethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-[1-(2-propynyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid hydrochloride (syn isomer) (1.38 g.)

reactant | 7-[2-tert-butoxycarbonylmethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-[1-(2-propynyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid hydrochloride | 1.57 g | Cl.C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC#C)C(=O)O)C1=O)C=1N=C(SC1)N
reactant | anisole | 1.57 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 8 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | 7-[2-carboxymethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-[1-(2-propynyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid hydrochloride | 1.38 g | Cl.C(=O)(O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC#C)C(=O)O)C1=O)C=1N=C(SC1)N | InChI=1S/C19H17N9O7S3.ClH/c1-2-3-27-19(23-25-26-27)38-6-8-5-36-16-12(15(32)28(16)13(8)17(33)34)22-14(31)11(24-35-4-10(29)30)9-7-37-18(20)21-9;/h1,7,12,16H,3-6H2,(H2,20,21)(H,22,31)(H,29,30)(H,33,34);1H/t12?,16-;/m1./s1
